US07585886B2
Potassium carbonate and methyl 4-(bromomethyl)benzoate were added in that order to an acetone solution of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate and stirred at room temperature for 20Hours. Thereafter, work-up and purification were carried out in the standard method to obtain methyl 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin 1-yl]methyl}benzoate. FP: 579.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-(bromomethyl)benzoate | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-{[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin 1-yl]methyl}benzoate | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1 | C37H42N2O4
